data/mechanism_extracts/SciAdv/10.1126_sciadv.add7134.json
{"doi": "10.1126_sciadv.add7134", "journal": "SciAdv", "is_review": false, "rxn_class_summary": "Electrochemical asymmetric Ni-catalyzed three-component alkoxy-alkylation of alkenes with 2-acylimidazoles and methanol, forming β-methoxy ketones with a quaternary stereocenter via radical addition.", "mechanism_family": ["radical_anodic", "electrocatalysis_inner_sphere", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the Ni(II)-bound enolate (derived from 2-acylimidazole 1a deprotonated by quinuclidine/2,6-di-tert-butylpyridine) generates a Ni-stabilized α-carbonyl radical that adds to the alkene; the resulting benzylic radical/cation is trapped by methanol.", "key_intermediates": [{"name": "Ni(II)-bound enolate of 2-acylimidazole 1a", "smiles": null, "role": "resting_state"}, {"name": "Ni-bound α-carbonyl radical (anodically oxidized enolate)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical from radical addition to 1,1-diphenylethylene (2a)", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation (after second SET oxidation)", "smiles": null, "role": "transient"}, {"name": "ring-opened homoallyl/allyl-carbinyl radical from cyclopropane probe 19", "smiles": null, "role": "transient"}], "electron_flow": "The Ni(II)/L8 complex binds the deprotonated 2-acylimidazole; anodic oxidation of this Ni-enolate produces a Ni-stabilized α-carbonyl radical that adds to the alkene to give a benzylic radical, which is further oxidized to a benzylic cation and trapped by MeOH, while protons are reduced at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a not formed; TEMPO-adduct of the α-carbonyl carbon isolated in 99% yield, supporting an α-carbonyl radical intermediate."}, {"name": "TEMPO+ BF4- (oxoammonium)", "smiles": null, "purpose": "intermediate_trap", "observation": "In the absence of current, TEMPO+ alone yields the same TEMPO-adduct (76%, 59% ee), indicating that TEMPO+ generated in situ by anodic oxidation could also be the trapping species; cannot rule out TEMPO oxidation pathway."}, {"name": "(1-phenyl-2-phenylcyclopropyl)ethylene 19 (radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened products 20 (13%, d.r. 1:1) and 21 (10%, d.r. 1:1) observed, consistent with a carbon-centered radical that opens the cyclopropane (intermediate [20-A] → [20-B])."}, {"name": "Cyclic voltammetry of NiCl2-L8 + 1a vs TEMPO", "smiles": null, "purpose": "redox_probe", "observation": "Onset potential of the Ni-bound enolate is ~+0.50 V vs SCE, similar to TEMPO, supporting feasibility of anodic generation of the Ni-enolate radical."}], "evidence_types_used": ["intermediate_trap_TEMPO", "radical_clock", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Constant-current (2-6 mA) and constant-potential (+1.0 V vs SCE) experiments both give 3a with consistently high ee (92-93%), indicating the stereo-determining step is Ni/L8-controlled radical addition rather than potential-dependent. Authors explicitly acknowledge an alternative pathway in which TEMPO is first oxidized to TEMPO+ which then traps the radical/enolate; this cannot be excluded based on the CV and stoichiometric TEMPO+ experiment."}
